US20010021718A1
Methyl 2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}4-cyclohexylbutyl)-5-methyl-1,3-oxazole-4-carboxylate
A solution of (3R)-6-cyclohexyl-3-[4-(methoxycarbonyl)-5-methyl-1,3-oxazol-2-yl]hexanoic acid (Preparation 70) (2.48 g, 7.36 mmol) was cooled to 0° and treated with 1-hydroxybenzotriazole hydrate (994 mg, 7.36 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (2.12 g, 11.06 mmol) and N-methylmorpholine (1.21 ml, 11.04 mmol). The mixture was stirred for 15 minutes then treated with O-benzylhydroxyamine (1.17 g, 7.36 mmol) and further N-methylmorpholine (0.81 ml, 7.36 mmol). The mixture was stirred for 1 hour being allowed to warm to room temperature over this time. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate, washed sequentially with water, a saturated solution of sodium hydrogen carbonate and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as a colourless oil (3.22 g)

reactant | (3R)-6-cyclohexyl-3-[4-(methoxycarbonyl)-5-methyl-1,3-oxazol-2-yl]hexanoic acid | 7.36 mmol, 2.48 g | C1(CCCCC1)CCC[C@H](CC(=O)O)C=1OC(=C(N1)C(=O)OC)C | C18H27NO5
reactant | 1-hydroxybenzotriazole hydrate | 7.36 mmol, 994 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 11.06 mmol, 2.12 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 11.04 mmol, 1.21 ml | CN1CCOCC1 | C5H11NO
reactant | O-benzylhydroxyamine | 7.36 mmol, 1.17 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | N-methylmorpholine | 7.36 mmol, 0.81 ml | CN1CCOCC1 | C5H11NO
product | Methyl 2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}4-cyclohexylbutyl)-5-methyl-1,3-oxazole-4-carboxylate | 3.22 g | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC(=C(N1)C(=O)OC)C)=O | C25H34N2O5
